* eigene Bibliothek
*
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*//////////////////////////////////////////////////////////
*LM324 Low Power Quad OPERATIONAL AMPLIFIER MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:   non-inverting input
*                |   inverting input
*                |   |   positive power supply
*                |   |   |   negative power supply
*                |   |   |   |   output
*                |   |   |   |   |
*                |   |   |   |   |
.SUBCKT LM324    1   2  99  50  28
*
*Features:
*Eliminates need for dual supplies
*Large DC voltage gain =             100dB
*High bandwidth =                     1MHz
*Low input offset voltage =            2mV
*Wide supply range =        +-1.5V to +-16V
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/4 of total device current.
*      Output crossover distortion with dual supplies
*      is not modeled.
*
****************INPUT STAGE**************
*
IOS 2 1 5N
*^Input offset current
R1 1 3 500K
R2 3 2 500K
I1 99 4 100U
R3 5 50 517
R4 6 50 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=1.2 MHz
C4 5 6 128.27P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 75U
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 2E-3 1
*Input offset voltage.^
R8 99 49 60K
R9 49 50 60K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 .635
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
*Fp1=7.86 Hz
R5 98 9 101.2433MEG
C3 98 9 200P
*
***************POLE STAGE***************
*
*Fp=2 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 5.6234E-8               
L2 98 17 15.9M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 300U 1
E1 99 23 99 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 28 500P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)
*
.ENDS
*$
*
**
*
* TL074 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL074    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
*
*
*
******************************************
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.
*/////////////////////////////////////////////////////////////////////
* Legal Notice:
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice.
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND"
*////////////////////////////////////////////////////////////////////
* For more information, and our latest models,
* please visit the models section of our website at
*       http://www.national.com/models/
*////////////////////////////////////////////////////////////////////
*
* BEGIN MODEL LMV771
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  1   3   5  2  4
.SUBCKT LMV771 1 3 5 2 4
*
* BEGIN SIMULATOR SYNTAX VERSIONS
* BEGIN SYNTAX FOR PSPICE
R302 0 70 1E6 TC=0.004, -0.0001
* END SYNTAX FOR PSPICE
* BEGIN SYNTAX FOR TOPSPICE
*R302 0 70 1E6 TC1=0.004 TC2=-0.0001
* END SYNTAX FOR TOPSPICE
* BEGIN SYNTAX FOR BERKELEY 3XX
*R302 0 70 1E6 RM1
*.MODEL RM1 R TC1=0.004 TC2=-0.0001
* END SYNTAX FOR BERKELEY 3XX
* BEGIN SYNTAX FOR HSPICE
*R302 0 70 1E6 TC1=0.004 TC2=-0.0001
* END SYNTAX FOR HSPICE
* END SIMULATOR SYNTAX VERSIONS
*
Q23 6 7 8 QLN
R227 9 10 1
R228 11 10 1
R229 7 12 1E3
R230 13 14 1E3
R231 15 5 3.7
R232 2 16 3.7
R234 17 18 250
R235 19 20 3.7
R236 8 21 3.7
D31 22 5 DD
D32 2 22 DD
D33 23 0 DIN
D34 24 0 DIN
I32 0 23 0.1E-3
I33 0 24 0.1E-3
E73 8 0 2 0 1
E74 20 0 5 0 1
D35 25 0 DVN
D36 26 0 DVN
I34 0 25 0.1E-3
I35 0 26 0.1E-3
E75 27 3 25 26 5.7E-3
G25 28 3 23 24 5E-7
R237 2 5 46E3
E76 29 0 20 0 1
E77 30 0 8 0 1
E78 31 0 32 0 1
R239 29 33 1E4
R240 30 34 1E5
R241 31 35 1E5
R242 0 33 1
R243 0 34 10
R244 0 35 10
E79 36 1 35 0 0.14
R245 37 32 1E3
R246 32 38 1E3
C50 29 33 20E-12
C51 30 34 20E-12
C52 31 35 10E-9
E80 39 36 34 0 0.3
E81 28 39 33 0 0.3
E82 40 8 20 8 0.5
D37 17 20 DD
D38 8 17 DD
M63 41 42 16 16 NOUT L=3U W=400U
M64 43 44 15 15 POUT L=3U W=400U
M65 45 45 19 19 POUT L=3U W=400U
M66 46 47 9 9 PIN L=3U W=525U
M67 48 49 11 11 PIN L=3U W=525U
M68 50 50 21 21 NOUT L=3U W=400U
R247 51 44 100
R248 52 42 100
G26 17 40 53 40 0.2E-3
R249 40 17 9E6
C53 18 22 35E-12
R250 8 46 2E3
R251 8 48 2E3
C54 46 48 2E-12
C55 28 0 4E-12
C56 27 0 4E-12
C57 22 0 0.5E-12
D39 42 6 DD
D40 54 44 DD
Q24 54 14 20 QLP
V99 28 55 -0.25E-3
M69 56 57 20 20 PIN L=6U W=500U
E83 38 0 28 0 1
E84 37 0 3 0 1
M70 57 57 20 20 PIN L=6U W=500U
V100 56 10 0.115
R252 22 43 9
R253 41 22 12
J9 58 28 58 JNC
J10 58 27 58 JNC
J11 27 59 27 JNC
J12 28 59 28 JNC
C58 28 60 5E-12
E85 61 40 48 46 1
R254 61 53 1E4
C59 53 40 0.7E-12
G27 62 40 17 40 -1E-3
G28 40 63 17 40 1E-3
G29 40 64 50 8 1E-3
G30 65 40 20 45 1E-3
D41 65 62 DD
D42 63 64 DD
R255 62 65 100E6
R256 64 63 100E6
R257 65 20 1E3
R258 8 64 1E3
E86 20 51 20 65 1
E87 52 8 64 8 1
R259 63 40 1E6
R260 64 40 1E6
R261 40 65 1E6
R262 40 62 1E6
R263 39 28 1E9
R264 36 39 1E9
R265 1 36 1E9
R266 3 27 1E9
R267 40 53 1E9
R268 51 20 1E9
R269 8 52 1E9
R270 32 0 1E9
I37 5 2 60E-6
L4 22 4 4E-9
R280 22 4 400
V107 20 58 0
V108 59 8 0.125
R284 45 20 1E6
R285 8 50 1E6
R286 16 42 1E6
R287 15 44 1E6
R289 60 27 100
R291 49 27 530
R292 47 55 530
E98 20 13 5 15 3
E99 12 8 16 2 3
G38 27 0 66 0 10E-15
I49 27 0 10E-15
I50 0 67 1E-3
D45 67 0 DD
V115 67 68 100.7
R301 0 68 1E6
E102 69 0 68 0 -1E-4
V116 71 66 16.6
G39 28 0 66 0 10E-15
I51 28 0 10E-15
E103 71 0 70 0 6E-3
G40 0 70 69 0 1
R303 0 69 1E6
R309 0 66 1E9
I57 45 50 420E-6
I58 57 8 126E-6
.MODEL DVN D KF=20E-12 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.ENDS  
* END MODEL LMV771

