* Z:\home\seriousd\git\Semesterprojekt\Simulation\Denise Simulationen\sim.asc
V1 N001 0 9
V2 0 N012 9
C1 N003 N007 0.1µ
R1 N003 N007 1meg
R2 N003 N002 47k
R3 N006 N002 90k
R4 N007 N006 5000
V3 N005 0 SINE(0 4V 50)
Q1 N008 N009 N010 0 BC547C
R6 N009 N004 120
R7 N011 0 50
D1 0 N009 BZX84C6V2L
C2 N009 N004 10n
XU1 N002 0 N001 N012 N006 TL074
XU2 0 N007 N001 N012 N003 TL074
XU3 N005 N003 N001 N012 N004 TL074
D3 N001 N008 QTLP690C
R5 N010 N011 68R
.model D D
.lib C:\users\seriousd\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\seriousd\Meine Dokumente\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.024 0.02
;.step param R 0.1 100 10
.lib OWN.lib
.backanno
.end
